US07595405B2
3-[5-(1,1-Difluoro-ethyl)-tetrazol-1-yl]-5-(5-methyl-pyridin-2-yl)-benzoic acid was reacted with (R)-2-amino-propan-1-ol using the procedure of step 4 of Example 5, to afford 3-[5-(1,1-Difluoro-ethyl)-tetrazol-1-yl]-N—((S)-2-hydroxy-1-methyl-ethyl)-5-(5-methyl-pyridin-2-yl)-benzamide, MS (M+H)=403.

reactant | 3-[5-(1,1-Difluoro-ethyl)-tetrazol-1-yl]-5-(5-methyl-pyridin-2-yl)-benzoic acid | FC(C)(F)C1=NN=NN1C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C16H13F2N5O2
reactant | (R)-2-amino-propan-1-ol | N[C@@H](CO)C | C3H9NO
product | 3-[5-(1,1-Difluoro-ethyl)-tetrazol-1-yl]-N—((S)-2-hydroxy-1-methyl-ethyl)-5-(5-methyl-pyridin-2-yl)-benzamide | FC(C)(F)C1=NN=NN1C=1C=C(C(=O)N[C@H](CO)C)C=C(C1)C1=NC=C(C=C1)C | C19H20F2N6O2
